US04211696
The 2-amino-3:5-dinitrothiophene used in the above Example was obtained by reacting the sodium salt of cyanoacetic acid with the dimer of mercaptoacetaldehyde in aqueous medium at 80° C., cooling to 20° C., adding acetic anhydride whilst maintaining the pH of the mixture between 6 and 7, acidifying and isolating the 2-acetylaminothiophene-3-carboxylic acid. This was then dinitrated in sulphuric acid medium at 0° C., the resulting 2-acetylamino-3:5-dinitrothiophene isolated and then deacylated by heating in an aqueous solution of sulphuric acid.

reactant | sodium | [Na] | Na
reactant | cyanoacetic acid | C(#N)CC(=O)O | C3H3NO2
reactant | mercaptoacetaldehyde | SCC=O | C2H4OS
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 2-acetylaminothiophene-3-carboxylic acid | C(C)(=O)NC=1SC=CC1C(=O)O | C7H7NO3S
